US07223788B2
4-(2,4-Difluorophenoxy)benzoic Acid
0.518 g of potassium hydroxide was added to a solution of 0.428 g of ethyl 4-(2,4-difluorophenoxy)benzoate in 2 ml of THF/water (1:1). The solution was heated at 110° C. for 6 hours. The THF was then removed in vacuo, and the aqueous phase was freeze dried and purified by preparative HPLC. This resulted in the product with the molecular weight of 250.04 (C13H8F2O3); MS (ESI): 251 (M+H+).

reactant | potassium hydroxide | 0.518 g | [OH-].[K+]
reactant | ethyl 4-(2,4-difluorophenoxy)benzoate | 0.428 g | FC1=C(OC2=CC=C(C(=O)OCC)C=C2)C=CC(=C1)F | C15H12F2O3
solvent | THF water | 2 ml | C1CCOC1.O
product | 4-(2,4-Difluorophenoxy)benzoic Acid | FC1=C(OC2=CC=C(C(=O)O)C=C2)C=CC(=C1)F | C13H8F2O3
